US05250517
80 mg (0.13 mmol) of ethyl (R)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-4-phenylbutyrate were taken up in 2 ml of a 5.6 molar alcoholic dimethylamine solution and heated to reflux for 3 hours. The solution was then evaporated and the residue was chromatographed on silica gel with a 20:1 mixture of methylene chloride and methanol to obtain 33 mg (20%) of (S)-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]-α-[(R)-α-[(dimethylcarbamoyl) methyl]hydrocinnamamido]imidazole-4-propionamide as an amorphous powder. MS: 608 (M+H)+.

reactant | ethyl (R)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-4-phenylbutyrate | 0.13 mmol, 80 mg | C1(CCCCC1)C[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@@H](CC(=O)OCC)CC1=CC=CC=C1 | C35H52N4O5
reactant | dimethylamine | 5.6 molar | CNC | C2H7N
product | (S)-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]-α-[(R)-α-[(dimethylcarbamoyl) methyl]hydrocinnamamido]imidazole-4-propionamide | 33 mg, 20% | C1(CCCCC1)C[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC([C@H](CC=1N=CNC1)NC([C@H](CC1=CC=CC=C1)CC(N(C)C)=O)=O)=O | C35H53N5O4
